US06525036B2
A mixture comprised of N-cyanomethyl-4-methyl-2-[3-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)phenyl]pentanamide (250 mg, 0.702 mmol), tert-butyl 4-bromobenzylcarbamate (303 mg, 1.053 mmol), sodium bicarbonate (1.1 mL, 2.11 mmol), palladium(II) chloride (18 mg, 0.0211 mmol) and DMF (15.8 mL) was stirred under nitrogen at between 80-85° C. until the reaction was complete. The mixture was diluted with water and the product was extracted with diethyl ether (3×). The combined extracts were washed with brine, dried (MgSO4) and then concentrated in vacuo. The product was purified from the residue by flash chromatography over silica gel (ethyl acetate/hexanes) to provide tert-butyl 3′-(1-cyanomethylcarbamoyl-3-methylbutyl)biphenyl-4-ylmethylcarbamate (252 mg, 0.576 mmol). 1H NMR (400 MHz, d6-DMSO): δ 8.79 (br s, 1H), 7.58-7.26 (m, 9H), 4.16 (d, J=5.2 Hz, 2H), 4.11 (br s, 2H), 3.67 (dd, J=7.2, 7.2 Hz, 1H), 1.95-1.91 (m, 1H), 1.57-1.53 (m, 1H), 1.40-1.33 (m, 10H), 0.88 (dd, J=6.7, 6.7 Hz, 6H); MS (−ESI) m/z 434.6 (M−H)−.

reactant | N-cyanomethyl-4-methyl-2-[3-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)phenyl]pentanamide | 0.702 mmol, 250 mg | C(#N)CNC(C(CC(C)C)C1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C)=O | C20H29BN2O3
reactant | tert-butyl 4-bromobenzylcarbamate | 1.053 mmol, 303 mg | BrC1=CC=C(CNC(OC(C)(C)C)=O)C=C1 | C12H16BrNO2
reactant | sodium bicarbonate | 2.11 mmol, 1.1 mL | C([O-])(O)=O.[Na+]
reactant | DMF | 15.8 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
catalyst | palladium(II) chloride | 0.0211 mmol, 18 mg | [Pd](Cl)Cl
product | tert-butyl 3′-(1-cyanomethylcarbamoyl-3-methylbutyl)biphenyl-4-ylmethylcarbamate | 0.576 mmol, 252 mg | C(#N)CNC(=O)C(CC(C)C)C=1C=C(C=CC1)C1=CC=C(C=C1)CNC(OC(C)(C)C)=O | C26H33N3O3
